US07300907B2
A solution of 4-chloro-2-fluoro-5-methoxyaniline (25.0 g, 0.143 mol) in 10% HBr (250 mL) was cooled to 0° C. and a solution of sodium nitrite (15.0 g, 0.218 mol) in water (20 mL) was slowly added. After addition, methylene chloride (50 mL) and cupric bromide (30.0 g, 0.244 mol) were added slowly. The reaction mixture was then warmed to ambient temperature, stirred for one hour, filtered through a bed of celite, and extracted with methylene chloride (2×100 mL). The combined organic phases were dried and concentrated. Chromatography of the dark oil (5% ethyl acetate in hexanes) gave 1-bromo-4-chloro-2-fluoro-5-methoxybenzene (16.6 g, 0.070 mol): 1H NMR (CDCl3): δ 7.20 (m, 1H), 7.05 (dd, 1H), 4.00 (s, 3H).

reactant | 4-chloro-2-fluoro-5-methoxyaniline | 0.143 mol, 25.0 g | ClC1=CC(=C(N)C=C1OC)F | C7H7ClFNO
reactant | sodium nitrite | 0.218 mol, 15.0 g | N(=O)[O-].[Na+]
reactant | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | HBr | 250 mL | Br | BrH
solvent | water | 20 mL | O | H2O
product | 1-bromo-4-chloro-2-fluoro-5-methoxybenzene | 0.070 mol, 16.6 g | BrC1=C(C=C(C(=C1)OC)Cl)F | C7H5BrClFO
